US05951964
a. Synthesis of N,N'-bis-[2-(4-methoxybenzylthio)-2-methylpropyl]ethylenediamine
A solution of N,N'-bis(2-mercapto-2-methylpropyl)ethylenediamine (11.23 g, 47.5 mmol; see, DiZio et al., 1991, Bioconjugate Chem 2: 353 and Corbin et al., 1976, J. Org. Chem. 41: 489) in methanol (500 mL) was cooled in ice/water bath and then saturated with gaseous ammonia over 45 min. To this was added 4-methoxybenzyl chloride (17.0 mL, 125 mmol, 264 mol %). The reaction was allowed to warm to room temperature overnight with stirring under argon. The solution was concentrated to a paste and then partitioned between diethyl ether (150 mL) and 0.5 M KOH (200 mL). The aqueous layer was further extracted with diethyl ether (2×50 mL). The combined organic layers were washed with NaCl solution and concentrated to a clear colorless oil. The oil was dissolved in diethyl ether (200 mL) and then acidified with 4.0 M HCl in dioxane until no further precipitation was seen. The white precipitate was collected by filtration and washed with diethyl ether. The white solid was recrystallized from hot water at a pH of ~2. The product was collected by filtration to afford 29.94 g as a mix of mono- and di-HCl salts. The HCl salts were partitioned between 1 M KOH (100 mL) and ethyl acetate (100 mL). The aqueous was extracted with ethyl acetate (2×30 mL) and the combined organic layers were washed with NaCl solution, dried with Na2SO4 and concentrated to give pure product as the free base as a light yellow oil (18.53 g, 82% yield). Nuclear magnetic resonance characterization experiments yielded the following molecular signature:

reactant | N,N'-bis(2-mercapto-2-methylpropyl)ethylenediamine | 47.5 mmol, 11.23 g | SC(CNCCNCC(C)(S)C)(C)C | C10H24N2S2
reactant | ammonia | N | H3N
reactant | 4-methoxybenzyl chloride | 125 mmol, 17.0 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | methanol | 500 mL | CO | CH4O
product | N,N'-bis-[2-(4-methoxybenzylthio)-2-methylpropyl]ethylenediamine | 18.53 g, 82% yield | COC1=CC=C(CSC(CNCCNCC(C)(SCC2=CC=C(C=C2)OC)C)(C)C)C=C1 | C26H40N2O2S2
